* ==========================================================================
* @part: NE555 NE556 LM555 ICM7555
* @family: timers
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library, Models/uncategorized/Bordodynovs Electronics Lib)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/timers.lib
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: nav
* @pins: NE555: 1 2 3 4 5 6 7 8
* @pins: NE556: 1 2 3 4 5 6 7 8 9 10 11 12 13 14
* @pins: LM555: 1 2 3 4 5 6 7 8
* @pins: ICM7555: 1 2 3 4 5 6 7 8
* @patched: 1 helper subckt/model name(s) suffixed with '__NE555NE556LM555ICM7555' so this file can be included together with other files
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

*		*		*		*		*	 NE555	*		*		*		*		*		*		*
.subckt NE555 1 2 3 4 5 6 7 8
A1 N001 2 1 1 1 1 N003 1 SCHMITT Vt=0 Vh=1m
R1 N001 1 5K
R2 5 N001 5K
R3 8 5 5K
S1 1 7 N012 1 DS
A2 N006 N003 1 1 1 1 N004 1 SRFLOP Trise=100n tripdt=10n
A3 6 5 1 1 1 1 N006 1 SCHMITT Vt=0 Vh=1m
S2 8 3 N010 1 OS
S3 3 1 1 N010 OS
A6 1 N013 1 N004 1 1 N012 1 OR Ref=.5 Vlow=-1 Trise=100n
R7 8 1 4K
R9 2 1 1G
R10 6 1 1G
A4 1 N004 1 N013 1 N010 1 1 OR ref=.5 Vlow=-1 Trise=100n
A5 4 1 1 1 1 N013 1 1 SCHMITT Vt=.7 Vh=1m
I1 8 4 .4m load
D1 4 1 DR
.model DS SW(Ron=6 Roff=.75G Vt=.5 Vh=-.4)
.model OS SW(Ron=6 Roff=1Meg Vt=0 Vh=-.8)
.model DR D(Ron=150K Roff=1T Vfwd=1.6)
.ends

* ----------------------------
* Connections
*      1 = GND
*      2 = TRIGGERB
*      3 = OUTPUT
*      4 = RESETB
*      5 = CONTROL VOLTAGE
*      6 = THRESHOLD
*      7 = DISCHARGE
*      8 = VCC
*Parameters which are modeled.
* 1) Full timer functionality
* 2) Supply bias current and load current
* 3) Output rise/fall times
* 4) Reset threshold
* 5) Output VOL/VOH
* 6) Discharge voltage with current   
**************************
.SUBCKT ICM7555 1 2 3 4 5 6 7 8
 XOPAMP 1 2 3 4 5 6 7 8 ICM7555_S__NE555NE556LM555ICM7555
.ENDS

**************************
.SUBCKT ICM7555_S__NE555NE556LM555ICM7555 18 11 12 13 14 15 16 10
*****************************************
*COMPARATORS
ES1 A11 18 10 18 1
IABIAS A11 A12 10UA 
MA1 A13 A16 A12 A11 MOSP
MA2 A14 A15 A12 A11 MOSP
VAOS A17 A16 0.5M    
RAD1 A13 18 10K
RAD2 A14 18 10K
DAC3 A15 10 DA
DAC4 18 A15 DA
GCA1 18 A20 A13 A14 1000M
RCA1 A20 18 100K
VCA1 A21 18 1V
DCA1 A20 A21 DY
DCA2 18 A20 DY
**************
IBBIAS A11 B12 10UA 
MB1 B13 B16 B12 A11 MOSP
MB2 B14 B15 B12 A11 MOSP
VBOS B17 B16 0.5M    
RBD1 B13 18 10K    
RBD2 B14 18 10K
DBC1 B16 10 DA    
DBC2 18 B16 DA
GCB1 18 B20 B13 B14 100M
RCB1 B20 18 100K
VCB1 B21 18 1V
DCB1 B20 B21 DY
DCB2 18 B20 DY
**************
RB1 10 B22 60K
RB2 B22 B23 60K
RB3 B23 18 60K
VR1 B23 A15 0
VR2 B22 B17 0
VIN1 A17 11 0
VIN2 B15 15 0
VIN3 B22 14 0
*******************************************
*SR LATCH
EL1 A25 18 10 18 1
RLA A25 A26 10K
CLA A26 18 1P
MLA1 A26 A27 18 18 MOSN
MLA2 A26 A28 18 18 MOSN
RLB A25 B26 10K
CLB B26 18 1P
MLB1 B26 B27 18 18 MOSN
MLB2 B26 B28 18 18 MOSN
MLB3 B26 B29 18 18 MOSN
VFB1 B27 A26 0
VFB2 A27 B26 0
EFB1 A28 18 POLY(2) A20 18 10 18 0 0 0 0 1
EFB2 B28 18 POLY(2) B20 18 10 18 0 0 0 0 1
****************************
*PD
EPD1 B33 18 B26 18 1
RPD1 B33 B34 10K
CPD1 B34 18 50P
*OUTPUT
MO1 B30 B34 A25 A25 MOSPA 
MO2 B30 B34 18 18 MOSNA
MO3 B31 B30 A25 A25 MOSPA
MO4 B31 B30 18 18 MOSNA
CO1 B31 18 0.1P
CO2 B30 18 0.1P
VO1 B31 12 0 
*DISCHARGE
MD1 16 B30 18 18 MOSNA
*RESET
RRST B29 A25 20K
MRST B29 13 18 18 MOSN
RRSTB 13 18 50G
*SUPPLY CURRENT
ISUP 10 18 12.3U
FSUP 18 A36 VO1 1
DSUP1 18 A36 DZ
DSUP2 A36 A37 DZ
RSUP A37 18 1
GSUP 10 18 A37 18 1
*******************************************
.MODEL DA D(IS=100E-14 RS=0.5k)
.MODEL MOSP PMOS(VTO=-0.7 KP=12.57E-4)
.MODEL MOSN NMOS(VTO=0.7 KP=12.57E-3)
.MODEL MOSPA PMOS(VTO=-2.0 KP=78.5E-4)
.MODEL MOSNA NMOS(VTO=2.0 KP=78.5E-4)
.MODEL DX D(IS=100E-14)
.MODEL DZ D(N=10M)
.MODEL DY D(IS=100E-14 N=0.1M)
*******************************************
.ENDS

*		*		*		*		*		*		*		*		*		*		*
* Device's based spice models:
*Subcircuito del LM555, traducido del diagrama esquemático
*que hay en la hoja de datos de Thomson por Robertugo_2005:
.SUBCKT LM555 1 2 3 4 5 6 7 8
Q1 N5 5 N7 1 NP
Q2 N1 6 N6 1 NP
Q3 N1 N6 N8 1 NP
Q4 N5 N7 N8 1 NP
Q5 7 N16 1 1 NP
Q6 N17 N14 1 1 NP
Q7 N1 N1 N3 1 PN
Q8 N17 N1 N2 1 PN
Q9 1 N5 N2 1 PN
Q10 N5 N5 N4 1 PN
Q11 N11 N20 N9 1 PN
R1 8 N3 4.7K
R2 8 N2 830
R3 8 N4 4.7K
R4 8 N9 1K
R5 8 5 5K
R6 8 N22 6.8K
Q13 1 2 N10 1 PN
Q14 N14 N10 N11 1 PN
Q15 N13 N12 N11 1 PN
Q16 N13 N15 N12 1 PN
R7 N14 1 100K
R8 N13 1 100K
R9 N15 5 5K
R10 N15 1 5K
R11 N8 1 10K
Q17 N16 4 N18 1 PN
Q18 N19 N17 1 1 NP
R12 N18 N20 5K
Q19 N20 N20 8 1 PN
Q20 N21 N20 8 1 PN
Q21 N21 N19 1 1 NP
R13 N17 N21 4.7K
Q22 8 N22 N23 1 NP
Q23 N22 N21 N24 1 NP
Q24 8 N23 3 1 NP
R14 3 N23 3.9K
Q25 3 N25 1 1 NP
R15 N25 N24 220
R16 1 N24 4.7K
R17 N24 N16 100
D2 3 N22 D
D1 N18 N19 D
.MODEL NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.MODEL PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
.MODEL D D(Is=1e-12 Cjo=1p Rs=5
.ENDS

*		*		*		*		*		*		*		*		*		*		*
*		*		*		TLC556		*		*		*		*
*
*      1 DISCH1       VDD 14
*      2 THRES1    DISCH2 13
*      3 CONT1     THRES2 12
*      4 RESET1     CONT2 11    
*      5 OUT1      RESET2 10
*      6 TRIG1       OUT2  9
*      7 GND        TRIG2  8  
*
.subckt NE556 1 2 3 4 5 6 7 8 9 10 11 12 13 14
X1  7 6 5  4  3  2  1 14  NE555
X2  7 8 9 10 11 12 13 14  NE555
.ends
